US09403839B2
To a solution of (4-isopropoxy-3-methyl-phenyl)[8-isopropoxy-10-(3-pyridyl)-11-oxa-3-azaspiro[5.5]undec-9-en-3-yl]methanone (163 mg, 0.35 mmol) in ethanol (10 mL) under nitrogen was added palladium (37 mg, 0.035 mmol) (10 wt % on carbon, wet). The reaction was purged with hydrogen gas and allowed to stir under a balloon of hydrogen overnight. The reaction mixture was filtered through a pad of celite. The filtrate was concentrated under reduced pressure. The reaction mixture was purified by column chromatography (50-100% ethyl acetate/hexane) to provide (4-isopropoxy-3-methyl-phenyl)-[cis-8-isopropoxy-10-(3-pyridyl)-11-oxa-3-azaspiro[5.5]undecan-3-yl]methanone (28.7 mg) as a clear colorless oil. 1H NMR (400 MHz, CDCl3) δ 8.62 (s, 1H), 8.54 (d, J=3.9 Hz, 1H), 7.73 (d, J=7.8 Hz, 1H), 7.37-7.24 (m, 1H), 7.22-7.13 (m, 2H), 6.80 (d, J=8.1 Hz, 1H), 4.65-4.50 (m. 1H), 4.55 (dp, J=12.2, 6.1 Hz, 1H), 4.36 (br s, 1H), 3.85 (s, 1H), 3.76 (dt, J=12.1, 6.1 Hz, 1H), 3.70-3.01 (m, 3H), 2.25 (m, 2H), 2.19 (s, 3H), 1.95 (dd, J=12.8, 2.9 Hz, 1H), 1.84-1.37 (m, 5H), 1.34 (d, J=6.0 Hz, 6H), 1.16 (dd, J=6.0, 3.6 Hz, 6H). ESI-MS m/z calc. 466.28, found 467.6 (M+1)+; Retention time: 1.41 minutes (3 min run).

reactant | (4-isopropoxy-3-methyl-phenyl)[8-isopropoxy-10-(3-pyridyl)-11-oxa-3-azaspiro[5.5]undec-9-en-3-yl]methanone | 0.35 mmol, 163 mg | C(C)(C)OC1=C(C=C(C=C1)C(=O)N1CCC2(CC1)CC(C=C(O2)C=2C=NC=CC2)OC(C)C)C | C28H36N2O4
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | palladium | 0.035 mmol, 37 mg | [Pd] | Pd
product | (4-isopropoxy-3-methyl-phenyl)-[cis-8-isopropoxy-10-(3-pyridyl)-11-oxa-3-azaspiro[5.5]undecan-3-yl]methanone | 28.7 mg | C(C)(C)OC1=C(C=C(C=C1)C(=O)N1CCC2(CC1)C[C@H](C[C@H](O2)C=2C=NC=CC2)OC(C)C)C | C28H38N2O4
